US09382226B2
Step A. 5-Fluoro-N-methyl-2-nitroaniline
2,4-Difluoronitrobenzene (1.00 g, 6.29 mmol), potassium fluoride (0.365 g, 6.29 mmol), potassium carbonate (0.869 g, 6.29 mmol), and 40% methylamine in water (0.58 mL, 7.5 mmol) were added to a vial and heated in a microwave at 90° C. for 10 min. The reaction was then diluted with dichloromethane, washed with water and brine, dried over magnesium sulfate, and concentrated to provide the title compound: 1H NMR (500 MHz, CDCl3) δ 8.22 (dd, J=9.4, 6.1 Hz, 1 H), 8.16 (br s, 1 H), 6.48 (dd, J=11.5, 2.6 Hz, 1 H), 6.40-6.36 (m, 1 H), 3.01 (d, J=5.0 Hz, 3 H).

reactant | 2,4-Difluoronitrobenzene | 6.29 mmol, 1.00 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | potassium fluoride | 6.29 mmol, 0.365 g | [F-].[K+]
reactant | potassium carbonate | 6.29 mmol, 0.869 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylamine | CN | CH5N
reactant | water | 7.5 mmol, 0.58 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Fluoro-N-methyl-2-nitroaniline | FC=1C=CC(=C(NC)C1)[N+](=O)[O-] | C7H7FN2O2
